US04966975
Step (4) Preparation of 5-Chloro-2-hydroxymethylnaphthalene
To a cooled (0° C.), stirred suspension of 5-chloro-2-naphthoic acid (1.10 g, 5.32 mmol) in THF (10 mL) was added BH3.THF (1M in THF, 7.50 mL, 7.50 mmol) over 10 minutes. The resulting mixture was then heated under reflux for 1 hour 30 minutes, recooled to 0° C., and saturated aqueous K2CO3 (4 mL) was added. H2O (20 mL) was added and the mixture was extracted with ether. The combined extracts were washed with brine, dried (MgSO4), and concentrated to give a pale yellow solid (0.94 g, 97%), m.p. 72°-75° C.

reactant | 5-chloro-2-naphthoic acid | 5.32 mmol, 1.10 g | ClC1=C2C=CC(=CC2=CC=C1)C(=O)O | C11H7ClO2
reactant | BH3.THF | 7.50 mmol, 1M, 7.50 mL | B.C1CCOC1
reactant | K2CO3 | 4 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 20 mL | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-Chloro-2-hydroxymethylnaphthalene | 0.94 g, 97% | ClC1=C2C=CC(=CC2=CC=C1)CO | C11H9ClO
